US07572809B2
Similar procedure as described in example 330 was used, starting from (1-Chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and isopropenylboronic acid pinacol ester to give (1-Isopropyl-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 297(MH+).

reactant | (1-Chloro-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | isopropenylboronic acid pinacol ester | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
product | (1-Isopropyl-5-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)C1=NC(=CC2=C(C=CC=C12)OC)NC1=NNC(=C1)C | C17H20N4O
